US08044213B2
To a suspension of the 1.00 g (2.49 mmole) of 4-(3-chloro-phenyl)-2-(5-formyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide (VI.2b), 40 mL of saturated aqueous ammonium chloride solution and 40 mL of tetrahydrofuran was added 1 g of zinc powder. The mixture was stirred room temperature for 15 minutes, then another 1 g of zinc powder was added. The mixture was stirred at room temperature for 15 minutes, then 1 g of zinc powder was added, and the mixture was stirred at room temperature for 15 minutes until the organic layer became straw yellow in color. Subsequent manipulations were performed under nitrogen. The mixture was filtered, and the filtrate was partitioned between 30 mL of saturated ammonium chloride solution and tetrahydrofuran (1:1). The organic layer was separated, dried over anhydrous magnesium sulfate, filtered and concentrated under reduced pressure to give a reddish yellow solid. The solid was mixed with 40 mL of acetic acid and 0.82 ml, (4.98 mmole) of triethyl orthoformate, and the mixture was stirred at room temperature for 30 minutes, during which time the mixture became mostly homogeneous. The mixture was filtered and the filtrate was poured into 200 mL of water. The precipitate was collected by filtration, washed with water and air-dried to give 0.73 g of 4-(3-chloro-phenyl)-2-(6-formyl-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide (I.2a) as a pink solid.

reactant | 4-(3-chloro-phenyl)-2-(5-formyl-2-nitro-phenylamino)-thiazole-5-carboxylic acid amide | 2.49 mmole, 1.00 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)NC1=C(C=CC(=C1)C=O)[N+](=O)[O-] | C17H11ClN4O4S
reactant | ammonium chloride | 40 mL | [Cl-].[NH4+]
reactant | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
reactant | triethyl orthoformate | 4.98 mmole | C(OCC)(OCC)OCC | C7H16O3
catalyst | zinc | 1 g | [Zn] | Zn
catalyst | zinc | 1 g | [Zn] | Zn
catalyst | zinc | 1 g | [Zn] | Zn
solvent | acetic acid | 40 mL | C(C)(=O)O | C2H4O2
product | 4-(3-chloro-phenyl)-2-(6-formyl-benzoimidazol-1-yl)-thiazole-5-carboxylic acid amide | 0.73 g | ClC=1C=C(C=CC1)C=1N=C(SC1C(=O)N)N1C=NC2=C1C=C(C=C2)C=O | C18H11ClN4O2S
